US05965268
4,4'-Bis(3,4-dicyanophenoxy)biphenyl monomer (1000 g, 2.27 moles) was melted at 275° C. in a 2000 ml reaction kettle equipped with a mechanical stirrer. The temperature was lowered to 265° C. and 1,3-bis(3-aminophenoxy)benzene (21 g, 0.072 mole) was added in small quantities with vigorous stirring. After 15 minutes of reaction time, the melt was quenched to room temperature to obtain a B-staged phthalonitrile resin or a prepolymer. The prepolymer was powdered finely and used in the solution impregnation process to formulate a phthalonitrile/carbon prepreg. Unsized Hercules IM7-12K carbon fiber with a density of 1.77 g/cc was used to make a unidirectional tape with 37 weight % resin. A composite panel was fabricated by consolidation of eight plies of the prepreg (9"×11") in an autoclave by heating for 1 hour at 250° C. and 3 hours at 325° C. under 200 psi pressure. The composite panel was postcured under an inert atmosphere of nitrogen for an additional 8 hours each at 325, 350 and 375° C. prior to carbonization.

reactant | 4,4'-Bis(3,4-dicyanophenoxy)biphenyl | 2.27 moles, 1000 g | C(#N)C=1C=C(OC2=CC=C(C=C2)C2=CC=C(C=C2)OC2=CC(=C(C=C2)C#N)C#N)C=CC1C#N | C28H14N4O2
reactant | 1,3-bis(3-aminophenoxy)benzene | 0.072 mole, 21 g | NC=1C=C(OC2=CC(=CC=C2)OC2=CC(=CC=C2)N)C=CC1 | C18H16N2O2
product | phthalonitrile | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
